US05324747
Using this procedure heptadecyl isocyanate was treated with 3-nitrophenol to give heptadecyl carbamic acid 3-nitrophenyl ester (mp 66°-73°, Anal. Calcd for C24H40N2O4 : C, 68.54; H, 9.59; N, 6.66. Found: C, 68.44; H, 9.88; N, 6.41) which was hydrogenated to give heptadecylcarbamic acid 3-aminophenyl ester (mp 69°-75°, Anal. Calcd for C24H42N2O4 : C, 73.80; H, 10.84; N, 7.17. Found: C, 73.79; H, 11.08; N, 6.84).

reactant | heptadecyl isocyanate | C(CCCCCCCCCCCCCCCC)N=C=O | C18H35NO
reactant | 3-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
product | heptadecyl carbamic acid 3-nitrophenyl ester | [N+](=O)([O-])C=1C=C(C=CC1)OC(NCCCCCCCCCCCCCCCCC)=O | C24H40N2O4
